US06207686B1
To an ice-bath cooled suspension of sodium hydride (60% dispersion in mineral oil, 0.40 g) in dimethylformamide (18 ml) were added dropwise methyl 3-(2-hydroxyphenyl)propionate (1.80 g) and benzyl bromide successively. After being stirred for 30 minutes, the mixture was poured into a mixture of diethyl ether (20 ml) and 1N hydrochloric acid solution (90 ml). The organic layer was separated and the aqueous layer was extracted by diethyl ether. The combined organic layer was washed with aqueous sodium bicarbonate solution, dried and concentrated in vacuo. The residue was purified by silica gel column chromatography [eluting with ethyl acetate n-hexane (1:1)] to provide methyl 3-(2-benzyloxyphenyl)-propionate (2.33 g).

reactant | sodium hydride | 0.40 g | [H-].[Na+]
reactant | methyl 3-(2-hydroxyphenyl)propionate | 1.80 g | OC1=C(C=CC=C1)CCC(=O)OC | C10H12O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 1N, 90 ml | Cl | ClH
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | methyl 3-(2-benzyloxyphenyl)-propionate | 2.33 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC(=O)OC | C17H18O3
